US06740662B1
A 720 mg portion of ethyl N-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]carbamate was stirred in 40 ml of an ethanol-3M sodium hydroxide aqueous solution (1:1) under heating at an oil bath temperature of 100° C. for 4 hours. After cooling to room temperature, the reaction mixture was diluted with water and then extracted with ethyl acetate. The organic layer was washed with saturated brine and the solvent was evaporated. The resulting residue was purified by a silica gel column chromatography (toluene-ethyl acetate) and then recrystallized from diisopropyl ether-ethyl acetate to obtain 298 mg of 3-amino-4-(3-chlorophenyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one as colorless crystals.

reactant | ethyl N-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]carbamate | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)NC(OCC)=O | C20H20ClN3O3
solvent | ethanol | 3M, 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-amino-4-(3-chlorophenyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one | 298 mg | NC=1C(N(C2=NC(=CC=C2C1C1=CC(=CC=C1)Cl)C)CC)=O | C17H16ClN3O
